US04017492
An aqueous solution of 1.26 g. (0.006 mole) of diethyl oxalacetate sodium salt was acidified with hydrochloric acid and extracted with methylene chloride. The extract was dried over sodium sulfate and evaporated to dryness in vacuo. The resulting oil in 30 ml. of methanol under N2 was mixed with 0.812 g. (0.003 mole) of 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine and allowed to stand at room temperature for 1.5 hours. The solution was evaporated in vacuo, dissolved in methylene chloride, washed with dilute sodium hydroxide and dried over magnesium sulfate. After filtration the solution was evaporated in vacuo giving 7-chloro-2-[[1,2-bis-(ethoxycarbonyl)ethylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine as an oil. Nmr confirmed the structure. Nmr (CDCl3) δ 1.20 and 1.22 (2 t's, 6, CH2CH3), 4.13 (q, 6, CH2CH3), 4.48 (broad s, 2, 3--CH2), between 6.93 and 7.83 (m's, 8, arom H's).

reactant | diethyl oxalacetate sodium salt | 0.006 mole | [Na].C(CC(=O)C(=O)OCC)(=O)OCC
reactant | hydrochloric acid | Cl | ClH
reactant | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | 0.003 mole | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
product | 7-chloro-2-[[1,2-bis-(ethoxycarbonyl)ethylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CC(=O)OCC)C(=O)OCC)C2=CC=CC=C2)C1 | C23H23ClN4O4
